US07745641B2
In a similar manner to Step 4 of Example 16, 4-methoxymethoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (1.15 g, 2.54 mmol) was dissolved in nitromethane (58 mL), and the solution was added with trifluoroacetic acid (1.20 mL, 7.62 mmol) and triethylsilane (0.587 mL, 7.62 mmol), followed by stirring at room temperature for 30 minutes. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography (chloroform/methanol=100/0, 99/1, hexane/ethyl acetate=80/20, 60/40) to obtain 4-methoxymethoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (935 mg, yield 84%).

reactant | 4-methoxymethoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 2.54 mmol, 1.15 g | COCOC1=C2C(N(C(C2=C(C=C1)I)=O)C(C)(C1=CC=CC=C1)C)O | C19H20INO4
reactant | trifluoroacetic acid | 7.62 mmol, 1.20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 7.62 mmol, 0.587 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | water | O | H2O
solvent | nitromethane | 58 mL | [N+](=O)([O-])C | CH3NO2
product | 4-methoxymethoxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 935 mg, yield 84% | COCOC1=C2CN(C(C2=C(C=C1)I)=O)C(C)(C1=CC=CC=C1)C | C19H20INO3
